US08247421B2
2-(benzylamino)-4-(5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile
2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile (50 mg, 0.096 mmol) was heated with benzylamine (21 uL, 0.19 mmol, 2.0 Eq.) and DIPEA (50 uL, 0.29 mmol, 3.0 Eq.) in THF (2 mL) under microwave conditions at 100° C. for 10 minutes. The reaction was concentrated and the residue dissolved in THF (5 mL). LiOH.H2O (20 mg, 0.48 mmol, 5.0 Eq.) in water (1 mL) was added and the reaction stirred for 1 hour. The reaction mixture was concentrated and the residue treated with MeOH. The obtained white precipitate was isolated by filtration and dried under vacuum (13 mg, 36% over 2 steps).

reactant | 2-(methylsulfonyl)-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | 0.096 mmol, 50 mg | CS(=O)(=O)C1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N | C21H14F3N5O4S2
reactant | benzylamine | 0.19 mmol, 21 uL, 2.0 Eq. | C(C1=CC=CC=C1)N | C7H9N
reactant | DIPEA | 0.29 mmol, 50 uL, 3.0 Eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH.H2O | 0.48 mmol, 20 mg, 5.0 Eq. | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-(benzylamino)-4-(5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidine-5-carbonitrile | C(C1=CC=CC=C1)NC1=NC=C(C(=N1)C1=CNC2=NC=C(C=C21)C(F)(F)F)C#N | C20H13F3N6
